US07390923B2
3-(4-Acetylaminophenoxy)-N-(4-fluoro-3-methylphenyl)-2-hydroxy-2-methylpropionamide was prepared as described in Example 61 c starting from 4-acetamidophenol and 2-methyloxirane-2-carboxylic acid (4-fluoro-3-methylphenyl)amide. 1H NMR (400 MHz, DMSO-d6): 1.40 (3H, s), 2.00 (3H, s), 2.20 (3H, s), 3.90 (1H, d, J=9.5 Hz), 4.15 (1H, d, J=9.5 Hz), 6.03 (1H, s), 6.84 (2H, d, J=8.7 Hz), 7.03-7.08 (1H, m), 7.44 (2H, d, J=8.7 Hz), 7.54-7.57 (1H, m), 7.67-7.69 (1H, m), 9.62 (1H, s), 9.75 (1H, s).

reactant | 4-acetamidophenol | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
reactant | 2-methyloxirane-2-carboxylic acid (4-fluoro-3-methylphenyl)amide | FC1=C(C=C(C=C1)NC(=O)C1(OC1)C)C | C11H12FNO2
product | 3-(4-Acetylaminophenoxy)-N-(4-fluoro-3-methylphenyl)-2-hydroxy-2-methylpropionamide | C(C)(=O)NC1=CC=C(OCC(C(=O)NC2=CC(=C(C=C2)F)C)(C)O)C=C1 | C19H21FN2O4
